US04829067
193 g of 5-chloro-3-formyl-2-hydroxybenzoic acid are dissoved in 2 liters of methanol and the solution is saturated with hydrogen chloride. 100 ml of thionyl chloride are added to the solution and the mixture is refluxed for 8 hours. After cooling, the resultant crystals are collected by filtration and dried to give 190 g of methyl 5-chloro-3-formyl-2-hydroxybenzoate.

reactant | 5-chloro-3-formyl-2-hydroxybenzoic acid | 193 g | ClC=1C=C(C(=C(C(=O)O)C1)O)C=O | C8H5ClO4
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 2 liters | CO | CH4O
product | methyl 5-chloro-3-formyl-2-hydroxybenzoate | 190 g | ClC=1C=C(C(=C(C(=O)OC)C1)O)C=O | C9H7ClO4
